US05504229
12.82kg/h of 2-ethylhexanal and 1.79kg/h of oxygen (molar ratio 1:0.56) were caused to react in the presence of 1.9wt% of potassium 2-ethylhexanoate (prepared by the addition of KOH to the initial reaction mixture) at 40° C. and a pressure of 3 bar. 96 % of 2-ethylhexanoic acid having a color value of 4 were isolated by distillation (determined as specified in ISO 6271 ). The bottoms were recycled to the oxidation stage.

reactant | 2-ethylhexanal | C(C)C(C=O)CCCC | C8H16O
reactant | oxygen | O=O | O2
reactant | potassium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[K+]
reactant | KOH | [OH-].[K+]
product | 2-ethylhexanoic acid | 96 % | C(C)C(C(=O)O)CCCC | C8H16O2
